US04578222
To a 50 ml round-bottomed flask, were added 1.0 g (15 mg-atom) of commercially available zinc powder, 1.9 g (15 mmol) of MnCL2 and 15 ml of dimethylformamide. Ultrasound generated in the same way as in Example 1 was applied for 1 hr to the solution to prepare zero-valent manganese. Next, a solution of 6 g (11 mmol) of C8F17I in 5 ml of dimethylformamide was added. As in Example 1, CO2 gas was introduced at a flow rate of 5 ml/min to the solution in a water bath for two hours under the irradiation of ultrasound by a ultrasonic cleaner (45 kHz, 35 W). The reaction was followed by the hydrolysis and then by the recrystallization such as in Example 1. 2.4 g (yield: 46%) of C8F17COOH was thus produced.

reactant | C8F17I | 11 mmol, 6 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C8F17I
reactant | CO2 | C(=O)=O | CO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | zinc | [Zn] | Zn
catalyst | manganese | [Mn] | Mn
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | C8F17COOH | 2.4 g, yield: 46% | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C(=O)O | C9HF17O2
